US09108938B2
2-chloro-3-fluoro-N-(2-morpholino-2-(2-(trifluoromethyl)pyrimidin-5-yl)ethyl)benzamide
From 2-chloro-3-fluorobenzoic acid and 2-morpholino-2-(2-(trifluoromethyl)pyrimidin-5-yl)ethanamine.

reactant | 2-chloro-3-fluorobenzoic acid | ClC1=C(C(=O)O)C=CC=C1F | C7H4ClFO2
reactant | 2-morpholino-2-(2-(trifluoromethyl)pyrimidin-5-yl)ethanamine | O1CCN(CC1)C(CN)C=1C=NC(=NC1)C(F)(F)F | C11H15F3N4O
product | 2-chloro-3-fluoro-N-(2-morpholino-2-(2-(trifluoromethyl)pyrimidin-5-yl)ethyl)benzamide | ClC1=C(C(=O)NCC(C=2C=NC(=NC2)C(F)(F)F)N2CCOCC2)C=CC=C1F | C18H17ClF4N4O2
